US05854268
a) 2-Iodo-4-(1,2,4-triazol-4-yl)phenylaniline
A solution of iodine monochloride (22.3 g, 137 mmol) in methanol (300 ml) was added over 0.75 h to a stirred suspension of 4-(1,2,4-triazol-4-yl)phenylaniline (20.0 g, 125 mmol) and calcium carbonate (25.0 g, 250 mmol) in methanol (800 ml) at -30° C. under nitrogen. The mixture was allowed to warm to room temperature and stirred for 16 h before filtering through a pad of celite. The filtrate was evaporated in vacuo and the residue dissolved in EtOAc and washed with 50% wlw sodium bisulphite solution. The solid material was filtered off and the organic layer dried (MgSO4), evaporated in vacuo and combined with the solid material to give the title product (23.9 g, 67%), δ (250 MHz, d6 -DMSO) 5.54 (2H, br s, NH2), 6.84 (1H, d, J=8.7 Hz, Ar--H), 7.38 (1H, dd, J=2.6 and 8.7 Hz, Ar--H), 7.87 (1H, d, J=2.5 Hz, Ar--H), 8.92 (2H, s, Ar--H).

reactant | iodine monochloride | 137 mmol, 22.3 g | ICl | ClI
reactant | 4-(1,2,4-triazol-4-yl)phenylaniline | 125 mmol, 20.0 g | N=1N=CN(C1)C1=CC=C(C=C1)NC1=CC=CC=C1 | C14H12N4
reactant | calcium carbonate | 250 mmol, 25.0 g | C([O-])([O-])=O.[Ca+2]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 800 ml | CO | CH4O
product | 2-Iodo-4-(1,2,4-triazol-4-yl)phenylaniline | 23.9 g, 67% | IC1=C(C=CC(=C1)N1C=NN=C1)NC1=CC=CC=C1 | C14H11IN4
